US08106221B2
tert-butyl 2-((3-(methoxycarbonylamino)propyl)(3-chlorophenyl)amino)ethyl(methyl)carbamate (50 mg, 0.31 mmol) was dissolved in a solution of 20% (V/V) TFA/CH2Cl2 (4 mL). The reaction mixture was stirred at room temperature for 1 h, a solution of saturated sodium bicarbonate was added dropwise to adjust pH=7-8. The resulting mixture was extracted with CH2Cl2 (3×10 mL), washed with brine, dried over Na2SO4, concentrated in vacuo to afford methyl 3-((3-chlorophenyl)(2-(methylamino)ethyl)amino)propylcarbamate (40 mg, 95%).

reactant | tert-butyl 2-((3-(methoxycarbonylamino)propyl)(3-chlorophenyl)amino)ethyl(methyl)carbamate | 0.31 mmol, 50 mg | COC(=O)NCCCN(CCN(C(OC(C)(C)C)=O)C)C1=CC(=CC=C1)Cl | C19H30ClN3O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | TFA CH2Cl2 | 4 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | methyl 3-((3-chlorophenyl)(2-(methylamino)ethyl)amino)propylcarbamate | 40 mg, 95% | ClC=1C=C(C=CC1)N(CCCNC(OC)=O)CCNC | C14H22ClN3O2
